US08466167B2
A solution of (Z)-2-(2-ethoxyvinyl)-8-methylbenzo[f][1,7]naphthyridin-5-amine (from the previous step) in a mixture of 2:5 conc. HCl and dioxane (0.1 M) was heated at 60° C. overnight. Upon cooling down to rt, the reaction mixture was treated with excess NaHCO3 saturated solution, followed by extraction with EtOAc. Combined organic extracts were concentrated and was taken up in THF (0.2 M), and was treated with 1 N super hydride solution in THF (10 eq.) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was worked up following the procedures described for Example 42/Step 3, to afford 2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethanol as white solid. 1H NMR (CDCl3): δ 8.61 (d, 1H), 8.47 (d, 1H), 8.01 (d, 1H), 7.41 (s, 1H), 7.10 (d, 1H), 6.40 (s, 1H), 6.01 (bs, 2H), 4.01 (t, 2H), 3.06 (t, 2H), 2.43 (s, 3H). LRMS [M+H]=254.1

reactant | (Z)-2-(2-ethoxyvinyl)-8-methylbenzo[f][1,7]naphthyridin-5-amine | C(C)O\C=C/C=1C=NC2=C(N=C3C(=C2C1)C=CC(=C3)C)N | C17H17N3O
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | super hydride | 1 N | [Li+].[B-](CC)(CC)CC
reactant | THF | 10 eq. | C1CCOC1 | C4H8O
solvent | dioxane | 0.1 M | O1CCOCC1 | C4H8O2
product | 2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethanol | NC1=NC2=C(C=3C=C(C=NC13)CCO)C=CC(=C2)C | C15H15N3O
